US04424372
The ethyl 4-cyanophenyl xanthate was dissolved in ethanol (500 ml) and the solution was refluxed. Potassium hydroxide (112 g, 2 m) was added slowly to the resulting hot solution. Thereafter, the reaction mixture solution was refluxed for approximately three hours. The ethanol was distilled off from the reaction mixture and water (100 ml) was added. The reaction mixture was acidified with 6 N sulfuric acid and the reaction product was extracted with ether. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated and the reaction product was vacuum-distilled to yield 4-cyanobenzenethiol (20 g, 30%), bp 102°-103° C./2 mm.

reactant | ethyl 4-cyanophenyl xanthate | O(C(=S)SC1=CC=C(C=C1)C#N)CC | C10H9NOS2
reactant | Potassium hydroxide | 112 g | [OH-].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-cyanobenzenethiol | 20 g, 30% | C(#N)C1=CC=C(C=C1)S | C7H5NS
